data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_309846_2,[C:1]([C:2]([N:5]([H:10])[H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([N:4]([O:6][H:7])[H:8])[H:9]>>[C:1]([C:3]([H:14])([H:15])[H:16])([N:4]([C:2]([N:5]([H:10])[H:11])([H:12])[H:13])[H:8])([O:6][H:7])[H:9],72.33318000003848
MR_152287_1,[C:1]([N:7]1/[C:4](=[N:8]/[H:9])[C:3]([C:2]([H:14])([H:15])[H:16])([H:10])[N:6]=[N:5]1)([H:11])([H:12])[H:13]>>[C:1](/[N:7]=[N:5]/[N:6]=[C:3]([C:2]([H:14])([H:15])[H:16])\[C:4](=[N:8]\[H:9])[H:10])([H:11])([H:12])[H:13],62.84098749999856
MR_454462_0,[C:1]1([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[C:6]([C:5]([H:19])([H:20])[H:21])([C:7]([O:9][C:2]([H:10])([H:11])[H:12])([H:22])[H:23])[O:8]1>>[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([O:8][C:6]([C:5]([H:19])([H:20])[H:21])=[C:7]([H:22])[H:23])[O:9][C:2]([H:10])([H:11])[H:12],71.72136750001371
MR_302898_2,[C:1](/[N:3]=[C:7](/[C:5]([C:2]([H:17])([H:18])[H:19])([C:4]([O:8][H:10])=[O:9])[N:6]([H:11])[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([N:3]([C:4]([O:8][H:10])=[O:9])/[C:7](=[C:5](\[C:2]([H:17])([H:18])[H:19])[N:6]([H:11])[H:12])[H:13])([H:14])([H:15])[H:16],59.71603749996973
MR_703940_0,[C:1](/[C:3](=[C:2](/[O:5][H:9])[N:7][N:8][N:4]([H:11])[H:12])[O:6][H:10])([H:13])([H:14])[H:15]>>[C:1]([C@@:3]1([O:6][H:10])[C:2]([O:5][H:9])=[N:7][N:8]1[N:4]([H:11])[H:12])([H:13])([H:14])[H:15],33.53485500001142
MR_517469_0,[C@@:1]([C@@:2]([C:4]([H:17])([H:18])[H:19])([O:8][H:11])[H:13])([C:3]([H:14])([H:15])[H:16])([N:5]([O:7][H:10])[H:12])[O:6][H:9]>>[C:1]([C:3]([H:14])([H:15])[H:16])([N:5]([C@@:2]([C:4]([H:17])([H:18])[H:19])([O:8][H:11])[H:13])[H:12])([O:6][H:9])[O:7][H:10],69.36573249996869
MR_589395_2,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([C:4]1([O:7][N:6]([H:11])[H:12])/[C:5](=[N:8]/[H:13])[O:9]1)[H:10]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])(/[C:5]([C:4]([O:7][N:6]([H:11])[H:12])=[O:9])=[N:8]/[H:13])[H:10],41.49594749999338
MR_551959_0,[C:1]1([H:12])([H:13])[N:3]([O:8][H:9])[C:4]([N:6]([H:10])[H:11])=[C:5]([C:2]([H:14])([H:15])[H:16])[O:7]1>>[C:1]1([H:12])([H:13])[C@:5]([C:2]([H:14])([H:15])[H:16])(/[C:4](=[N:3]/[O:8][H:9])[N:6]([H:10])[H:11])[O:7]1,52.4313900000277
MR_479340_0,[C:1](/[C:3]([C:2]([O:6][H:8])=[O:7])=[C:5](\[N:4]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:3]1=[C:2]([O:6][H:8])[O:7][C@:5]1([N:4]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14],46.63642749996285
MR_343409_1,[C:1]1([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[C:2]([C:6](=[O:7])[H:14])([H:9])[N:3]1[H:8]>>[C:1](\[C:2]1([H:9])[N:3]([H:8])[C:6]1([O:7][H:13])[H:14])([N:4]([H:10])[H:11])=[N:5]/[H:12],15.900850000017783
MR_328010_0,[C:1]([C:2]([H:12])([H:13])[H:14])([N:3]([N:4]([H:10])[H:11])[H:8])([O:5][O:6][H:7])[H:9]>>[C:1]([C:2]([H:12])([H:13])[H:14])([O:5][N:3]([N:4]([H:10])[H:11])[H:8])([O:6][H:7])[H:9],52.334755000022
MR_706853_0,[C:1]([C:3](/[C:2]([N:4]([H:9])[H:10])=[C:7](\[N:5]([H:11])[H:12])[H:15])=[C:8](\[N:6]([H:13])[H:14])[H:16])([H:17])([H:18])[H:19]>>[C:1]([C:3]1=[C:2]([N:4]([H:9])[H:10])[C:7]([N:5]([H:11])[H:12])([H:15])[C:8]1([N:6]([H:13])[H:14])[H:16])([H:17])([H:18])[H:19],35.96014250002327
MR_560041_0,[C:1]([N:8][C:5]([C:3]([C:4]([C:2]([H:15])([H:16])[H:17])[O:7][H:10])[O:6][H:9])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:8]1[C@@:4]([C:2]([H:15])([H:16])[H:17])([O:7][H:10])[C:3]([O:6][H:9])=[C:5]1[H:11])([H:12])([H:13])[H:14],51.62442500003195
MR_671255_0,[C@:1]([C:2]([H:11])([H:12])[H:13])([C:3]([O:4][H:8])[N:6][H:10])([N:5][O:7])[H:9]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[C:3](/[O:4][H:8])[N:6]([N:5]=[O:7])[H:10])[H:9],31.20431999997436
MR_619978_1,[C:1](/[C:2](=[C:3](/[N:4]([H:9])[H:10])[C:5](=[C:6]([H:15])[H:16])[H:11])[O:7][H:8])([H:12])([H:13])[H:14]>>[C:1]([C@@:2]1([O:7][H:8])[C:3]([N:4]([H:9])[H:10])=[C:5]([H:11])[C:6]1([H:15])[H:16])([H:12])([H:13])[H:14],38.23231999999365
MR_603348_1,[C:1]([C:6]([C:4](=[C:5]([N:9]([H:13])[H:14])[N:10]([H:15])[H:16])[N:8]([H:11])[H:12])=[C:7]([C:2]([H:20])([H:21])[H:25])[C:3]([H:22])([H:23])[H:24])([H:17])([H:18])[H:19]>>[C:1]([C:6]1=[C:4]([N:8]([H:11])[H:12])[C:5]([N:9]([H:13])[H:14])([N:10]([H:15])[H:16])[C:7]1([C:2]([H:20])([H:21])[H:25])[C:3]([H:22])([H:23])[H:24])([H:17])([H:18])[H:19],39.245732500003214
MR_146738_0,[C:1](/[N:8]=[N:7]/[C:3](=[C:4](/[C:2]([H:14])([H:15])[H:16])[O:6][H:10])[O:5][H:9])([H:11])([H:12])[H:13]>>[C:1]([N:8]1[C:4]([C:2]([H:14])([H:15])[H:16])([O:6][H:10])[C:3]([O:5][H:9])=[N:7]1)([H:11])([H:12])[H:13],43.49516250001088
MR_634736_1,[C:1]([C:2]([C:5]([H:19])([H:20])[H:21])([N:6]([O:8][H:10])[H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[O:7][H:9]>>[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([N:6]([C:2]([C:5]([H:19])([H:20])[H:21])([O:8][H:10])[H:12])[H:11])[O:7][H:9],71.96734749999905
